US07678794B2
Synthesis of N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-3-[hydroxy-(1-methyl-2,4-dioxo-pyrrolidin-3-ylidene)-methyl]-benzamide
Add sarcosine methyl ester hydrochloride (0.156 g, 1.12 mmol) to a solution of N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-3-[(2,2-dimethyl-4,6-dioxo-[1,3]dioxan-5-ylidene)-hydroxy-methyl]-benzamide (0.641 g, 1.12 mmol) in toluene (0.2M). Add triethylamine (0.226 g, 2.23 mmol) and heat the solution at reflux for 24 h. Evaporate solvents and add potassium hydroxide (10 mmol) in 1:1 methanol/water (0.2M). Stir the reaction for 24 h. Precipitate product by diluting reaction mixture with water. Filter to afford the title compound (0.050 g, 0.092 mmol, 8%): 1H NMR (400 MHz, DMSO-d6) δ 0.88 (t, J=7.0 Hz, 3H), 1.50 (q, J=9.8 Hz, 2H), 2.57 (s, 3H), 2.61 (t, J=7.2 Hz, 2H), 2.81 (s, 1H), 3.31 (m, 3H), 4.03 (s, 4H)(?), 5.25 (s, 2H), 6.72 (d, J=8.6 Hz, 1H), 7.17 (d, J=7.4 Hz, 1H), 7.37 (t, J=7.8 Hz, 1H), 7.46 (m, 1H), 7.68 (s, 2H), 7.80 (d, J=9.0 Hz, 1H), 7.95 (s, 2H), 8.05 (s, 1H), 10.31 (s, 1H), 12.84 (s, 1H). MS (m/z): 541 (M−1).

reactant | sarcosine methyl ester hydrochloride | 1.12 mmol, 0.156 g | Cl.COC(CNC)=O
reactant | N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-3-[(2,2-dimethyl-4,6-dioxo-[1,3]dioxan-5-ylidene)-hydroxy-methyl]-benzamide | 1.12 mmol, 0.641 g | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(O)=C2C(OC(OC2=O)(C)C)=O)=O)C=C1)CCC)O | C32H31NO9
reactant | triethylamine | 2.23 mmol, 0.226 g | C(C)N(CC)CC | C6H15N
reactant | potassium hydroxide | 10 mmol | [OH-].[K+]
solvent | toluene | 0.2M | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | methanol water | 0.2M | CO.O
product | N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-3-[hydroxy-(1-methyl-2,4-dioxo-pyrrolidin-3-ylidene)-methyl]-benzamide | 0.092 mmol, 0.050 g, 8% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(=C2C(N(CC2=O)C)=O)O)=O)C=C1)CCC)O | C31H30N2O7
